US05385925
4'-[[2-n-Butyl-5-(3-carboxy-propionyl)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid
A solution of 200 mg (0.39 mMol) of methyl 4'-[[2-n-butyl-5-(3-methoxycarbonyl-propionyl)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylate and 0.75 ml of sodium hydroxide solution in 4 ml of ethanol is stirred for 2 hours at 75° C., then mixed with 40 ml of water and acidified with glacial acetic acid. The alcohol is then distilled off, the resulting mixture is stirred for one hour at ambient temperature, the product precipitated is suction filtered, washed with 10 ml of water and dried.

reactant | methyl 4'-[[2-n-butyl-5-(3-methoxycarbonyl-propionyl)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylate | 0.39 mMol, 200 mg | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=CC(=C2)C(CCC(=O)OC)=O | C31H32N2O5
reactant | sodium hydroxide | 0.75 ml | [OH-].[Na+]
reactant | water | 40 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4'-[[2-n-Butyl-5-(3-carboxy-propionyl)-benzimidazol-1-yl]-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC(=C2)C(CCC(=O)O)=O | C29H28N2O5
